US06005000
Hydrogenolysis of 500 mg (1.2 mmol) of 4-hydroxy-5-(4-isobutylphenyl)-5-phenyl-3-phenylmethoxy-2(5H)-furanone was performed in a similar manner as described in the preparation of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to provide 200 mg (51% yield) of 3,4-dihydroxy-5-(4-isobutylphenyl)-5-phenyl-2(5H)-furanone as a white powder: mp 138-139° C. (CHCl3 /hexanes). 1H NMR (acetone-d6) δ 7.40-7.15 (m, 9H), 2.49 (d, J=7.1 Hz, 2H), 1.94-1.74 (m, 1H), 0.89 (d, J=6.5 Hz, 6H). Anal Calcd for C20H20O4 : C, 74.1; H, 6.2. Found: C, 73.7; H, 6.3.

reactant | 4-hydroxy-5-(4-isobutylphenyl)-5-phenyl-3-phenylmethoxy-2(5H)-furanone | 1.2 mmol, 500 mg | OC1=C(C(OC1(C1=CC=CC=C1)C1=CC=C(C=C1)CC(C)C)=O)OCC1=CC=CC=C1 | C27H26O4
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
product | 3,4-dihydroxy-5-(4-isobutylphenyl)-5-phenyl-2(5H)-furanone | 200 mg, 51% yield | OC=1C(OC(C1O)(C1=CC=CC=C1)C1=CC=C(C=C1)CC(C)C)=O | C20H20O4
